US07939533B2
d) (3S,5R)-3-Benzoyloxy-5-(tert-butyl-dimethyl-silanyloxy)-piperidine-1-carboxylic Acid Benzyl Ester
To a solution of 2.8 g (7.8 mmol) (3R,5R)-3-(tert-butyl-dimethyl-silanyloxy)-5-hydroxy-piperidine-1-carboxylic acid benzyl ester in 70 ml dry THF were consecutively added 1.0 g (8.5 mmol) benzoic acid, 1.7 g (8.5 mmol) diethyl azodicarboxylate and 2.2 g (8.5 mmol) triphenylphosphine at 0° C. After 6 h the reaction mixture was diluted with tert-butyl methyl ether washed with a 2N aqueous solution of sodium carbonate. The aqueous layer was extracted with 3 portions of tert-butyl methyl ether. The combined organic extracts were washed with a 2N aqueous solution of sodium carbonate and brine and dried over sodium sulfate. Flash chromatography gave 2.8 g (78%) of the title compound as a yellow oil.

reactant | (3R,5R)-3-(tert-butyl-dimethyl-silanyloxy)-5-hydroxy-piperidine-1-carboxylic acid benzyl ester | 7.8 mmol, 2.8 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H](C[C@H](C1)O)O[Si](C)(C)C(C)(C)C | C19H31NO4Si
reactant | benzoic acid | 8.5 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | diethyl azodicarboxylate | 8.5 mmol, 1.7 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 8.5 mmol, 2.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | (3S,5R)-3-Benzoyloxy-5-(tert-butyl-dimethyl-silanyloxy)-piperidine-1-carboxylic Acid Benzyl Ester | 2.8 g, 78% | C(C1=CC=CC=C1)OC(=O)N1C[C@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)OC(C1=CC=CC=C1)=O | C26H35NO5Si
